US07045544B2
5-[(3,3-Dimethylbutanoyl)amino]-N,1-diphenyl-1H-indole-2-carboxamide
7.9 mg (0.09 mmol) of aniline are added to a solution of 27 mg (0.08 mmol) of 5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylic acid (Example LIX), 4.7 mg (0.09 mmol) of DMAP and 22.2 mg (0.12 mmol) of EDC in 2 ml of dichloromethane, and the mixture is stirred at RT for 3 h. For work-up, 1-molar hydrochloric acid is added and the mixture is extracted repeatedly with dichloromethane. The combined organic phases are washed with saturated sodium bicarbonate solution and water, dried over sodium sulphate and filtered. Removal of the solvent under reduced pressure gives 35 mg (99% of theory) of the product.

reactant | aniline | 0.09 mmol, 7.9 mg | NC1=CC=CC=C1 | C6H7N
reactant | 5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylic acid | 0.08 mmol, 27 mg | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)O)(C)C | C21H22N2O3
reactant | EDC | 0.12 mmol, 22.2 mg
reactant | hydrochloric acid | 1-molar | Cl | ClH
catalyst | DMAP | 0.09 mmol, 4.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5-[(3,3-Dimethylbutanoyl)amino]-N,1-diphenyl-1H-indole-2-carboxamide | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1)(C)C | C27H27N3O2
